US07482355B2
vi) (3,4-difluorophenyl)methanethiol
Thiourea (5.0 g) was added to a solution of 3,4-difluorobenzyl bromide (13.6 g) in ethanol (100 ml). The mixture was heated at reflux for 3 h before removal of the volatiles in vacuo. The crude solid was suspended in aqueous sodium hydroxide solution (1.6M, 110 ml) and heated at reflux for 3 h before allowing to cool to room temperature. The reaction was acidified with concentrated hydrochloric acid and the organics extracted with ether (200 ml). The organic layer was washed with saturated sodium bicarbonate solution (2×50 ml), brine (20 ml), dried (MgSO4), and concentrated in vacuo to provide the subtitle product as a colourless oil. Yield 11.1 g

reactant | Thiourea | 5.0 g | NC(=S)N | CH4N2S
reactant | 3,4-difluorobenzyl bromide | 13.6 g | FC=1C=C(CBr)C=CC1F | C7H5BrF2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1.6M, 110 ml | [OH-].[Na+]
product | (3,4-difluorophenyl)methanethiol | FC=1C=C(C=CC1F)CS | C7H6F2S
